US05639752
U. 5-(4-Methyl-3-nitropyrid-2-ylamino)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole
(R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole and 2-chloro-4-methyl-3-nitropyridine were used. Triethylamine was used as base, absolute ethanol was used as solvent, and the reaction was heated at reflux for 24 hours. Column chromatography afforded the title compound (34%) as a red amorphous solid: 1H NMR (CDCl3) δ9.26 (brs, NH),8.79 (brs, NH),8.10 (d,J=4.8 Hz, 1H), 7.64(d,J=1.7 Hz, 1H), 7.29 (d, J=8.5 Hz, 1H), 7.17 (dd, J=8.5 and 1.9 Hz, 1H), 6.97 (d, J=2.2 Hz, 1H), 6.56 (d, J=4.8 Hz, 1H), 3.25-3.16 (m, 2H), 2.67 (dd, J=13.2 and 9.4 Hz, 1H), 2.64-2.56 (m, 1H), 2.56 (s, 3H), 2.46 (s, 3H), 2.30 (dd, J=17.7 and 9.4 Hz, 1H), 1.90-1.60 (m, 4H); 13C NMR (CDCl3) δ152.2, 151.5, 146.6, 134.3, 131.0, 130.0, 127.9, 123.4, 119.4, 117.1, 114.0, 113.3, 111.6, 67.0, 57.4, 40.7, 31.4, 29.5, 21.8, 21.7; FAB HRMS calculated for [C20H23N5O2.H]366.1932, found 366.1957.

reactant | (R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H19N3
reactant | 2-chloro-4-methyl-3-nitropyridine | ClC1=NC=CC(=C1[N+](=O)[O-])C | C6H5ClN2O2
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 5-(4-Methyl-3-nitropyrid-2-ylamino)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 34% | CC1=C(C(=NC=C1)NC=1C=C2C(=CNC2=CC1)CC1N(CCC1)C)[N+](=O)[O-] | C20H23N5O2
